US07288557B2
1.70 g (5.0 mmol) 1-(4-Methoxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one methane-sulfonate and 7 ml 47% aqueous HBr were heated to 80° C. overnight. After diluting with 10 ml water and cooling to 0° C. the mixture was alkalized (pH 12.6) by dropwise addition of 4N NaOH and extracted three times with toluene. Concentration of the toluene phase in vacuo gave 0.05 g recovered starting material. The aqueous phase was cooled and adjusted to pH=6.3 by addition of 6 N HCl. The resulting precipitate was isolated and dried in vacuo at 40° C. to give 1-(4-hydroxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one. Yield: 0.96 g (83%).

reactant | 1-(4-Methoxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one methane-sulfonate | 5.0 mmol, 1.70 g | CS(=O)(=O)O.COC1=CC=C(C=C1)C(CCCN1N=NC=C1)=O
reactant | HBr | 7 ml | Br | BrH
reactant | NaOH | 4N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-(4-hydroxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one | OC1=CC=C(C=C1)C(CCCN1N=NC=C1)=O | C12H13N3O2
